US05264454
A mixture of 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-hydroxyindan (2.8 g), diethyl malonate (3.6 g) and DBU (0.12 ml) was heated at 160°-170° C. for 2 hours. After cooling, the resulting crystals were collected by filtration and washed with ethanol to give ethyl 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylate (3.1 g, 87.8%). Recrystallization from ethanol gave colorless prisms, m.p. 208°-209° C.

reactant | 5-(3,5-di-tert-butyl-4-hydroxybenzoyl)-6-hydroxyindan | 2.8 g | C(C)(C)(C)C=1C=C(C(=O)C=2C=C3CCCC3=CC2O)C=C(C1O)C(C)(C)C | C24H30O3
reactant | diethyl malonate | 3.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | DBU | 0.12 ml | C1CCC2=NCCCN2CC1 | C9H16N2
product | ethyl 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2,6,7,8-tetrahydrocyclopenta[g][1]benzopyran-3-carboxylate | 3.1 g, 87.8% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=C(C(OC2=C1C=C1C(=C2)CCC1)=O)C(=O)OCC | C29H34O5
